US07544702B2
2-Chloro-N-{4-methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-yl}-4-trifluoromethyl-benzenesulfonamide (137)
Can be prepared from 4-methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-ylamine and 2-chloro-4-trifluoromethylbenzenesulfonyl chloride. 1H NMR (CDCl3) 8.30 (1H, d) 7.75 (2H, m) 7.70(1H, s) 7.6(3H, m) 7.05(1H, s) 3.0(4H, m)2.1 (3H, s) 1.6(4H, m) 1.40(2H, m) LCMS Polarity/Scan type: Negative Q1 Scan. M.wt. 605(-H), 607(-H). Retention time 7.39 minutes. HPLC MS8 Retention time 5.36 minutes.

reactant | 4-methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-ylamine | CC1=C(N=NC(=C1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1)N | C16H20N4O2S2
reactant | 2-chloro-4-trifluoromethylbenzenesulfonyl chloride | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
product | 2-Chloro-N-{4-methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-yl}-4-trifluoromethyl-benzenesulfonamide | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC=1N=NC(=CC1C)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C23H22ClF3N4O4S3
